US09290451B2
b) 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid [1-(3,3-difluoro-azetidine-1-carbonyl)-1-ethyl-propyl]-amide
In analogy to the procedure described in Example 293, 2-(6-(cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)picolinamido)-2-ethylbutanoic acid and 3,3-difluoroazetidine (CAN 679431-52-8) were condensed to the title product. MS (EI): m/e=471.4 [M−H]−.

reactant | 2-(6-(cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)picolinamido)-2-ethylbutanoic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)NC(C(=O)O)(CC)CC)N1CC(C1)(F)F | C19H25F2N3O4
reactant | 3,3-difluoroazetidine | FC1(CNC1)F | C3H5F2N
product | 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid [1-(3,3-difluoro-azetidine-1-carbonyl)-1-ethyl-propyl]-amide | FC1(CN(C1)C(=O)C(CC)(CC)NC(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)OCC1CC1)F | C22H28F4N4O3
